US09259470B2
2-Methylpyridin-4-amine (0.28 g, 2.6 mmol) was placed in THF (5 mL) and cooled to −78° C. t-BuLi (1.5 mL, 2.6 mmol) was added dropwise, and the solution was warmed to 0° C. for 30 minutes. This solution was then added dropwise to a −78° C. THF solution (5 mL) of (S)-1-(2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2(1H)-one (0.070 g, 0.13 mmol). The reaction was stirred for an additional 30 minutes at −78° C., then poured into water, and extracted with DCM. The combined organic fractions were dried (MgSO4), filtered, and concentrated to give the crude product, which was purified by column chromatography (500:10-500:20 DCM/MeOH) to give the product (S)-1-(2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-((2-methylpyridin-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (0.028 g, 38% yield).

reactant | 2-Methylpyridin-4-amine | 2.6 mmol, 0.28 g | CC1=NC=CC(=C1)N | C6H8N2
reactant | t-BuLi | 2.6 mmol, 1.5 mL | [Li]C(C)(C)C
reactant | (S)-1-(2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2(1H)-one | 0.13 mmol, 0.070 g | [Si](C)(C)(C(C)(C)C)OC[C@H](C1=CC(=C(C=C1)Cl)F)N1C(C=C(C=C1)C1=NC(=NC=C1)S(=O)(=O)C)=O | C24H29ClFN3O4SSi
reactant | water | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (S)-1-(2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-((2-methylpyridin-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 0.028 g, 38% yield | [Si](C)(C)(C(C)(C)C)OC[C@H](C1=CC(=C(C=C1)Cl)F)N1C(C=C(C=C1)C1=NC(=NC=C1)NC1=CC(=NC=C1)C)=O | C29H33ClFN5O2Si
